data/polar.json
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[S:2]1(=[O:19])(=[O:20])[c:13]2[c:4]([cH:9][cH:3][cH:14][cH:8]2)[C:18]([O-:5])=[N:17]1.[cH:1]1[cH:6][cH:15][c:12]([N+:10](=[CH2:11])[CH3:21])[cH:16][cH:7]1>>[cH:1]1[cH:6][cH:15][c:12]([N:10]([CH2:11][N:17]2[S:2](=[O:19])(=[O:20])[c:13]3[c:4]([cH:9][cH:3][cH:14][cH:8]3)[C:18]2=[O:5])[CH3:21])[cH:16][cH:7]1", "epd": [["LP-/Pi+", [5], [18, 5]], ["Pi-/Sigma+", [17, 18], [17, 11]], ["Pi-/LP+", [11, 10], [10]]]}
{"reaction_name": "Selenoxide elimination", "rsmi": "[cH:1]1[cH:7][cH:2][cH:12][c:9]([Se:5](=[O:3])[CH:8]([CH3:4])[CH:6]([CH3:10])[H:13])[cH:11]1>>[CH3:4][CH:8]=[CH:6][CH3:10].[cH:1]1[cH:7][cH:2][cH:12][c:9]([Se:5][O:3][H:13])[cH:11]1", "epd": [["Sigma-/Pi+", [6, 13], [6, 8]], ["Pi-/LP+", [3, 5], [3]], ["LP-/Sigma+", [3], [3, 13]], ["Sigma-/LP+", [5, 8], [5]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:14])[C:22]([C:2]#[N:15])=[CH:3][c:29]1[cH:12][cH:18][cH:30][cH:19][cH:13]1.[cH:4]1[cH:8][c:25]([CH:6]=[C:31]2[CH:26]=[CH:16][C:23](=[N+:24]([O-:20])[O-:21])[CH:17]=[CH:27]2)[cH:9][cH:5][c:10]1[N+:28](=[O:7])[O-:11]>>[C:1](=[N-:14])=[C:22]([C:2]#[N:15])[CH:3]([CH:6]([c:25]1[cH:8][cH:4][c:10]([N+:28](=[O:7])[O-:11])[cH:5][cH:9]1)[c:31]1[cH:26][cH:16][c:23]([N+:24](=[O:20])[O-:21])[cH:17][cH:27]1)[c:29]1[cH:12][cH:18][cH:30][cH:19][cH:13]1", "epd": [["LP-/Pi+", [20], [24, 20]], ["Pi-/Pi+", [23, 24], [16, 23]], ["Pi-/Pi+", [26, 16], [31, 26]], ["Pi-/Sigma+", [6, 31], [6, 3]], ["Pi-/Pi+", [3, 22], [22, 1]], ["Pi-/LP+", [1, 14], [14]]]}
{"reaction_name": "Sanger reagent substitution", "rsmi": "[CH3:1][NH-:14].[N+:2]([c:4]1[cH:9][c:6]([F:13])[cH:10][c:5]([N+:3](=[O:8])[O-:12])[cH:15]1)(=[O:7])[O-:11]>>[CH3:1][NH:14][c:6]1[cH:9][c:4]([N+:2](=[O:7])[O-:11])[cH:15][c:5]([N+:3](=[O:8])[O-:12])[cH:10]1.[F-:13]", "epd": [["LP-/Sigma+", [14], [6, 14]], ["Sigma-/LP+", [6, 13], [13]]]}
{"reaction_name": "Vinylic nucleophilic substitution", "rsmi": "[O+:1]#[C:12][Fe-2:17]1234([C:13]#[O+:2])([C:14]#[O+:3])[CH:6]5[CH:8]1[CH:20]=[CH:19][CH:9]2[CH:7]3[CH:11]54.[cH:4]1[c:21]2[cH:18][cH:25][c:23]([S-:10])[cH:16][c:24]2[cH:15][cH:5][cH:22]1>>[O+:1]#[C:12][Fe-3:17]123([C:13]#[O+:2])([C:14]#[O+:3])[CH:6]4[CH:8]([S:10][c:23]5[cH:16][c:24]6[cH:15][cH:5][cH:22][cH:4][c:21]6[cH:18][cH:25]5)[CH:20]=[CH:19][CH:9]1[CH:7]2[CH:11]43", "epd": [["LP-/Sigma+", [10], [10, 8]], ["Sigma-/LP+", [8, 17], [17]]]}
{"reaction_name": "Jacobsen epoxidation", "rsmi": "[CH2:1]=[CH:3][CH3:11].[c:2]1([I:10]=[O:7])[cH:8][cH:4][cH:6][cH:5][cH:9]1>>[CH2:1]1[CH:3]([CH3:11])[O:7]1.[c:2]1([I:10])[cH:8][cH:4][cH:6][cH:5][cH:9]1", "epd": [["Pi-/Sigma+", [1, 3], [1, 7]], ["Sigma-/LP+", [7, 10], [10]], ["LP-/Sigma+", [7], [3, 7]], ["Pi-/LP+", [7, 10], [7]]]}
{"reaction_name": "Imidazole protonation", "rsmi": "[Cl:5][H:7].[cH:1]1[cH:3][n:6][cH:2][nH:4]1>>[Cl-:5].[cH:1]1[cH:3][n+:6]([H:7])[cH:2][nH:4]1", "epd": [["LP-/Sigma+", [6], [6, 7]], ["Sigma-/LP+", [5, 7], [5]]]}
{"reaction_name": "Organoboron imine addition", "rsmi": "[OH:20][H:17].[c:1]1([B:6]([OH:2])[OH:3])[cH:15][cH:9][cH:13][cH:10][cH:16]1.[cH:4]1[cH:7][cH:12][cH:8][cH:5][c:11]1[N:19]=[CH:18][CH3:14]>>[OH:20][B:6]([OH:2])[OH:3].[c:1]1([CH:18]([CH3:14])[N:19]([H:17])[c:11]2[cH:4][cH:7][cH:12][cH:8][cH:5]2)[cH:15][cH:9][cH:13][cH:10][cH:16]1", "epd": [["Sigma-/Sigma+", [1, 6], [1, 18]], ["Pi-/LP+", [18, 19], [19]], ["LP-/Sigma+", [19], [17, 19]], ["Sigma-/LP+", [17, 20], [20]], ["LP-/Sigma+", [20], [6, 20]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH:1]([C:14](=[O:15])[c:21]1[cH:4][cH:28][c:18]([N:27]([CH3:22])[CH3:23])[cH:29][cH:5]1)=[S:30]([CH3:6])[CH3:7].[cH:2]1[cH:12][cH:3][c:8]2[c:13]([o+:9][c:11](-[c:25]3[cH:19][cH:16][cH:26][cH:17][cH:20]3)[cH:10][cH:24]2)[cH:31]1>>[CH:1]([C:14](=[O:15])[c:21]1[cH:4][cH:28][c:18]([N:27]([CH3:22])[CH3:23])[cH:29][cH:5]1)([CH:24]1[c:8]2[cH:3][cH:12][cH:2][cH:31][c:13]2[O:9][C:11]([c:25]2[cH:19][cH:16][cH:26][cH:17][cH:20]2)=[CH:10]1)[S+:30]([CH3:6])[CH3:7]", "epd": [["Pi-/Sigma+", [1, 30], [1, 24]], ["Pi-/Pi+", [24, 10], [10, 11]], ["Pi-/LP+", [11, 9], [9]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[N:6]1([c:10]2[c:32]([CH3:14])[cH:28][c:22]([CH3:20])[cH:31][c:35]2[CH3:17])[CH:27]=[CH:26][N:7]([c:11]2[c:33]([CH3:15])[cH:29][c:23]([CH3:21])[cH:30][c:34]2[CH3:16])[C:39]1=[CH2:24].[c:1]12[c:4]([cH:18][cH:12][cH:37][cH:8]1)-[c:5]1[c:2]([cH:9][cH:38][cH:13][cH:19]1)[N+:36]2=[CH:3][CH3:25]>>[c:1]12[c:4]([c:5]3[c:2]([cH:9][cH:38][cH:13][cH:19]3)[n:36]1[CH:3]([CH2:24][c:39]1[n+:6](-[c:10]3[c:32]([CH3:14])[cH:28][c:22]([CH3:20])[cH:31][c:35]3[CH3:17])[cH:27][cH:26][n:7]1-[c:11]1[c:33]([CH3:15])[cH:29][c:23]([CH3:21])[cH:30][c:34]1[CH3:16])[CH3:25])[cH:18][cH:12][cH:37][cH:8]2", "epd": [["LP-/Pi+", [6], [39, 6]], ["Pi-/Sigma+", [24, 39], [24, 3]], ["Pi-/LP+", [3, 36], [36]]]}
